US07285558B2
Preparation of 2-(1-benzothiophen-3-ylmethyl)-7-isobutyl-5-methyl-3-(1-methyl-1H-pyrrol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
1-Benzothiophene-3-carbaldehyde N-(3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydro-4-pyrimidinyl)hydrazone (100 mg, 0.284 mmol) was suspended in anh. DMA (3 mL) under an atmosphere of N2 gas. To the suspension was added N-methylpyrrole-2-carboxaldehyde (37 mg, 0.34 mmol). To this suspension was added catalytic amounts of triethylamine (25 μL). The reaction mixture was placed in a preheated heating block maintained at 90° C. and heated under N2 gas for 18 h. At the end of reaction the solvent was removed in vacuo and the resulting brown oil was resuspended in DMSO (1.5 mL) and was purified by semi preparative RPHPLC eluting with MeCN/water/TFA mixtures. Yield=37 mg, Rt=2.46 min, MS: 444,(M+H).

reactant | 1-Benzothiophene-3-carbaldehyde N-(3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydro-4-pyrimidinyl)hydrazone | 0.284 mmol, 100 mg | C(C(C)C)N1C(N(C(C=C1NN=CC1=CSC2=C1C=CC=C2)=O)C)=O | C18H20N4O2S
reactant | N-methylpyrrole-2-carboxaldehyde | 0.34 mmol, 37 mg | CN1C(=CC=C1)C=O | C6H7NO
reactant | triethylamine | 25 μL | C(C)N(CC)CC | C6H15N
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | 2-(1-benzothiophen-3-ylmethyl)-7-isobutyl-5-methyl-3-(1-methyl-1H-pyrrol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | S1C=C(C2=C1C=CC=C2)CN2N=C1N(C(N(C(C1=C2C=2N(C=CC2)C)=O)C)=O)CC(C)C | C24H25N5O2S
